US07371748B2
2-[(2-Methoxy-ethylamino)-methyl]-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide
The title compound was prepared from 2-chloromethyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide and 2-methoxy-ethylamine in the same manner as described for N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-morpholin-4-ylmethyl-isonicotinarmide and afforded as yellow solid (60% yield). MS: m/e=457(M+H+), mp 93-95° C.

reactant | 2-chloromethyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide | ClCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C20H20ClN3O3S
reactant | 2-methoxy-ethylamine | COCCN | C3H9NO
product | 2-[(2-Methoxy-ethylamino)-methyl]-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide | COCCNCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C23H28N4O4S
